US08309546B2
Step 1: tert-Butyl (3S)-3-(2,6-dichloro-9H-purin-9-yl)pyrrolidine-1-carboxylate
Tetrahydrofuran (200 ml) was added to 2,6-dichloropurine (6 g, 31.8 mmol), tert-butyl (3R)-3-hydroxypyrrolidine-1-carboxylate (5.94 g, 31.8 mmol), and triphenylphosphine (9.2 g, 34.9 mmol) and the resulting mixture was made uniform. Diisopropyl azodicarboxylate (6.9 ml, 35 mmol) was added with ice cooling and the resulting mixture was stirred at room temperature for 30 minutes and then heated to reflux for 1 hour. The reaction mixture was cooled, then the solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography (hexane:ethyl acetate=7:3 to 6:4 to 5:5 to 4:6) to give the title compound (10.5 g, 92%) as a white solid.

reactant | 2,6-dichloropurine | 31.8 mmol, 6 g | ClC1=NC(=C2NC=NC2=N1)Cl | C5H2Cl2N4
reactant | tert-butyl (3R)-3-hydroxypyrrolidine-1-carboxylate | 31.8 mmol, 5.94 g | O[C@H]1CN(CC1)C(=O)OC(C)(C)C | C9H17NO3
reactant | triphenylphosphine | 34.9 mmol, 9.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diisopropyl azodicarboxylate | 35 mmol, 6.9 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | Tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | tert-Butyl (3S)-3-(2,6-dichloro-9H-purin-9-yl)pyrrolidine-1-carboxylate | 10.5 g, 92% | ClC1=NC(=C2N=CN(C2=N1)[C@@H]1CN(CC1)C(=O)OC(C)(C)C)Cl | C14H17Cl2N5O2
